US07365085B2
a) [(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-N-methyl-amino]-acetic acid methyl ester
A solution of (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-N-methyl-amine (81 mg, 0.15 mmol) in methanol (15 ml) was treated with bromo-acetic acid methyl ester (46 mg, 0.30 mmol) diisopropylethylamine (46 mg, 0.36 mmol). The resulting solution was heated at 50° C. for 4 hours, cooled down and concentrated. The crude material was dissolved in EtOAc and washed with brine (1×), dried over sodium sulfate, and filtered. The filtrate was concentrated to afford title compound as an oil (70 mg, 76%). MS(ES) m/e 625.2 (M+).

reactant | (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-N-methyl-amine | 0.15 mmol, 81 mg | ClC1=C(CN(CCCOC=2C=C(C=CC2)NC)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C32H32ClF3N2O
reactant | bromo-acetic acid methyl ester | 0.30 mmol, 46 mg | COC(CBr)=O | C3H5BrO2
solvent | methanol | 15 ml | CO | CH4O
product | [(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-N-methyl-amino]-acetic acid methyl ester | 70 mg, 76% | COC(CN(C)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C35H36ClF3N2O3
